US09403807B2
Step E: tert-butyl 1-(4-chlorobenzyl)-6-fluoro-1H-indol-4-ylcarbamate
The mixture of 1-(4-chlorobenzyl)-6-fluoro-1H-indol-4-amine (7 g, 0.026 mol) and di-tert-butyl dicarbonate (11 g, 0.051 mol) in t-butyl alcohol (100 mL) was heated at 50° C. for 16 h. The solvent was evaporated and the solid was filtrated and washed with PE to afford the title compound. LC/MS m/z=375.1 [M+H]+.

reactant | 1-(4-chlorobenzyl)-6-fluoro-1H-indol-4-amine | 0.026 mol, 7 g | ClC1=CC=C(CN2C=CC=3C(=CC(=CC23)F)N)C=C1 | C15H12ClFN2
reactant | di-tert-butyl dicarbonate | 0.051 mol, 11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butyl alcohol | 100 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl 1-(4-chlorobenzyl)-6-fluoro-1H-indol-4-ylcarbamate | ClC1=CC=C(CN2C=CC3=C(C=C(C=C23)F)NC(OC(C)(C)C)=O)C=C1 | C20H20ClFN2O2
